US05919433
a) N-(2-Bromopropionyl)-β-alanine
72.69 g (311.3 mmol) of a-bromopropionic acid chloride is added in drops at 0° C. to 40 g (448.98 mmol) of b-alanine and 90 g (889.5 mmol) of triethylamine in 500 ml of methylene chloride. In this case, the temperature remains between 0° C.-5° C. 1000 ml of 5% aqueous hydrochloric acid is added, and the organic phase is separated. The organic phase is extracted once more with 500 ml of 5% aqueous hydrochloric acid, dried on magnesium sulfate and evaporated to dryness in a vacuum. The residue is recrystallized from acetone/diisopropyl ether.

reactant | a-bromopropionic acid chloride | 311.3 mmol, 72.69 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | b-alanine | 448.98 mmol | C(CN)C(=O)O | C3H7NO2
reactant | triethylamine | 889.5 mmol, 90 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1000 ml | Cl | ClH
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Bromopropionyl)-β-alanine | BrC(C(=O)NCCC(=O)O)C | C6H10BrNO3
